US04210754
5.45 G. of p-chloro-N-(2-chloroethyl)-benzamide and 8.7 g. of morpholine are stirred together for 2 hours at 100° C. The mixture is cooled to room temperature and 50 ml. of water are added. Then, the mixture is rendered basic with 10% ammonia solution and extracted three times with 50 ml. of methylene chloride each time. The methylene chloride extract is dried over sodium sulfate and evaporated. The residue is chromatographed over a silica gel column with a mixture of chloroform and ethanol. The product is recrystallized from isopropanol, and 2.2 g. of p-chloro-N-(2-morpholinoethyl)-benzamide are obtained, which is identical to the product obtained in Example 1.

reactant | p-chloro-N-(2-chloroethyl)-benzamide | ClC1=CC=C(C(=O)NCCCl)C=C1 | C9H9Cl2NO
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | p-chloro-N-(2-morpholinoethyl)-benzamide | ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | C13H17ClN2O2
